US06348474B1
3-((2,4-Dichlorophenyl)hydroxymethyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene
3-(2,4-Dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo[b]-thiophene (600 mg, 1.58 mmol) was dissolved in a mixed solvent of tetrahydrofuran (10 ml) and methanol (1 ml), and sodium borohydride (72 mg, 1.9 mmol) was added thereto under ice-cooling. The mixture was stirred for 40 min under ice-cooling. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure to give the objective compound (580 mg, 96%) as colorless crystals.

reactant | 3-(2,4-Dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo[b]-thiophene | 1.58 mmol, 600 mg | ClC1=C(C(=O)C=2C3=C(SC2C)C=CC(=C3)C(=O)OC)C=CC(=C1)Cl | C18H12Cl2O3S
reactant | sodium borohydride | 1.9 mmol, 72 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 3-((2,4-Dichlorophenyl)hydroxymethyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene | 580 mg, 96% | ClC1=C(C=CC(=C1)Cl)C(C=1C2=C(SC1C)C=CC(=C2)C(=O)OC)O | C18H14Cl2O3S
